US05753679
0.202 g (0.002 mol) of 4-hydroxypiperidine and 0.55 g (0.0022 mol) of 3-bromobenzyl bromide were dissolved in 5 ml of dimethylformamide and stirred at room temperature for 2 hrs. The solvent was distilled off and the residue was taken up in dichloromethane and washed with saturated bicarbonate solution and sodium chloride solution. The organic phase was dried over sodium sulfate and concentrated. 0.52 g (96%) 1-(3-bromo-benzyl)-piperidin-4-ol was obtained as a brown oil. MS: me/e (% basic peak)=271, 269 (C12H16BrNO+, 26, 26.6), 270, 268 (25.5, 22), 171, 169 (47, 48.3), 114 (76.6), 100 (100).

reactant | 4-hydroxypiperidine | 0.002 mol, 0.202 g | OC1CCNCC1 | C5H11NO
reactant | 3-bromobenzyl bromide | 0.0022 mol, 0.55 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(3-bromo-benzyl)-piperidin-4-ol | 0.52 g, 96% | BrC=1C=C(CN2CCC(CC2)O)C=CC1 | C12H16BrNO
